US05077402
H) Synthesis of N-butylcarbazole
A suspension of 100 g (0.6 mol) of carbazole in 200 ml of toluene is heated under reflux, with stirring. After cooling to 95°, first 26.8 g (0.12 mol) of triethylbenzylammonium chloride and then a solution of 169.8 g of KOH in 180 ml of water are added. The temperature thereby drops to 65°. 205.6 g (1.5 mol) of butyl bromide are now added in the course of 5 minutes, with vigorous stirring, whereupon the temperature rises to 92°. The mixture is kept under reflux for a further 10 minutes, all the carbazole dissolving. The aqueous phase is then removed. .The toluene phase is washed with a little water, dried over Na2CO3 and evaporated in vacuo. The oily residue is dissolved in 300 ml of warm hexane and the solution is clarified. On cooling, the product crystallizes in beige-coloured crystals of melting point 50°-52°.

reactant | carbazole | 0.6 mol, 100 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | KOH | 169.8 g | [OH-].[K+]
reactant | butyl bromide | 1.5 mol, 205.6 g | C(CCC)Br | C4H9Br
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | triethylbenzylammonium chloride | 0.12 mol, 26.8 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 180 ml | O | H2O
product | N-butylcarbazole | C(CCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C16H17N
